US07320973B2
(R)-5,11-Dihydro-5-[1-(3-pyrrolidinophenethyl)pyrrolidin-2-ylmethyl]-dibenzo[b,e][1,4]oxazepine dihydrochloride
2.0 ml of 2 M hydrogen chloride/diethyl ether was added to a solution of (R)-5,11-dihydro-5-[1-(3-pyrrolidinophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine (208 mg) in dichloromethane (2 ml), and they were stirred together for 2 hours. The solvent was evaporated under reduced pressure. The obtained residue was solidified by stirring it in hexane. The solid thus precipitated was taken by the filtration to obtain the title compound in the form of a light brown solid (220 mg, 91%).

reactant | hydrogen chloride diethyl ether | 2 M, 2.0 ml | Cl.C(C)OCC
reactant | (R)-5,11-dihydro-5-[1-(3-pyrrolidinophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine | 208 mg | N1(CCCC1)C=1C=C(CCN2[C@H](CCC2)CN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=CC1 | C30H35N3O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (R)-5,11-Dihydro-5-[1-(3-pyrrolidinophenethyl)pyrrolidin-2-ylmethyl]-dibenzo[b,e][1,4]oxazepine dihydrochloride | Cl.Cl.N1(CCCC1)C=1C=C(CCN2[C@H](CCC2)CN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=CC1 | InChI=1S/C30H35N3O.2ClH/c1-2-13-28-25(10-1)23-34-30-15-4-3-14-29(30)33(28)22-27-12-8-19-32(27)20-16-24-9-7-11-26(21-24)31-17-5-6-18-31;;/h1-4,7,9-11,13-15,21,27H,5-6,8,12,16-20,22-23H2;2*1H/t27-;;/m1../s1
